US07407948B2
To a stirred solution of phenoselenazine (1.00 g) in glacial acetic acid (170 cm3), under nitrogen and cooled in an ice-bath was added a solution of bromine (10 cm3) in glacial acetic acid (10 cm3). After 10 minutes the reaction mixture was poured into rapidly stirred water (400 cm3). The resultant 3,7-dibromo-phenoselenazin-5-ylium bromide was deposited as a dark solid and was collected by filtration, washed with diethyl ether and dried. A portion of the product (1.24 g) was added to a vigorously stirred solution of dibutylamine (5.00 g) in dichloromethane (200 cm3) under an atmosphere of nitrogen. The reaction mixture was stirred for 18 hours and then washed successively with water, dilute aqueous hydrobromic acid (5% w/w) and finally water. The organic phase was dried (MgSO4) and the solvent removed by rotary evaporation. Flash column chromatography over silica gel 60 A was performed on the crude material using a mobile phase of chloroform with increasing methanol content to a maximum of 2%. 3,7-Bis-(N,N-dibutylamino)-phenoselenazin-5-ylium bromide was isolated as a dark blue solid in 17% yield.

reactant | phenoselenazine | 1.00 g | C1=CC=CC=2[Se]C3=CC=CC=C3NC12 | C12H9NSe
reactant | bromine | 10 cm3 | BrBr | Br2
reactant | water | 400 cm3 | O | H2O
reactant | 3,7-dibromo-phenoselenazin-5-ylium bromide | [Br-].BrC=1C=CC=2NC3=CC=C(C=C3[SeH+]C2C1)Br
solvent | acetic acid | 170 cm3 | C(C)(=O)O | C2H4O2
solvent | acetic acid | 10 cm3 | C(C)(=O)O | C2H4O2
product | 3,7-Bis-(N,N-dibutylamino)-phenoselenazin-5-ylium bromide | 17% yield | [Br-].C(CCC)N(CCCC)C=1C=CC=2NC3=CC=C(C=C3[SeH+]C2C1)N(CCCC)CCCC | InChI=1S/C28H43N3Se.BrH/c1-5-9-17-30(18-10-6-2)23-13-15-25-27(21-23)32-28-22-24(14-16-26(28)29-25)31(19-11-7-3)20-12-8-4;/h13-16,21-22,29H,5-12,17-20H2,1-4H3;1H
